US04061647
3-(3,4-Dichloro-5-sulfamoylphenyl)-3-hydroxy-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]-pyrimidine-hydrochloride
was obtained in a manner analogous to the method described in Example 1 d from 2,3',4'-trichloro-5'-sulfamoyl-acetophenone and 2,35 g of 3,4,5,6-tetrahydro-2-pyrimidine-thiol. M.p. 188° C (decomposition).

reactant | 2,3',4'-trichloro-5'-sulfamoyl-acetophenone | ClCC(=O)C1=CC(=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6Cl3NO3S
reactant | 3,4,5,6-tetrahydro-2-pyrimidine-thiol | 2,35 g | N1=C(NCCC1)S | C4H8N2S
product | 3-(3,4-Dichloro-5-sulfamoylphenyl)-3-hydroxy-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]-pyrimidine-hydrochloride | Cl.ClC=1C=C(C=C(C1Cl)S(N)(=O)=O)C1(CSC=2N1CCCN2)O | InChI=1S/C12H13Cl2N3O3S2.ClH/c13-8-4-7(5-9(10(8)14)22(15,19)20)12(18)6-21-11-16-2-1-3-17(11)12;/h4-5,18H,1-3,6H2,(H2,15,19,20);1H
